US05773530
To a solution of trans-3-[2-(2-hydroxycyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]-pyridine (157 mg) in 20 ml of dichloromethane was added pyridinium dichromate (307 mg) and molecular sieves 4A (144 mg) at 5° C. The reaction mixture was allowed to stir at room temperature for 28.5 hours. Insoluble material was filtered off using celite and the filtrate was washed with 1N hydrochloric acid (10 ml), saturated aqueous sodium bicarbonate (10 ml), and brine (10 ml), dried over sodium sulfate, and concentrated in vacuo. The crude material was purified by column chromatography on silica gel (2 g) eluted with a mixture of dichloromethane and ethyl acetate (4:1) to give 3-[2-(2-oxocyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (116.5 mg). The nmr spectrum for this compound was identical with that of the authentic sample prepared by the method described in Example 2.

reactant | trans-3-[2-(2-hydroxycyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]-pyridine | 157 mg | O[C@H]1[C@@H](CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C23H22N4O2
reactant | pyridinium dichromate | 307 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-[2-(2-oxocyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 116.5 mg | O=C1C(CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C23H20N4O2
